US07842688B2
c) 3(S)-Hydroxy-1-phenylpyrrolidin-2-one
A Schlenk flask is initially charged with 0.123 g of 3(S)-hydroxy-pyrrolidin-2-one, 0.453 g of caesium carbonate, 0.032 g of dipalladiumtris(dibenzylidenacetone)-chloroform complex and 0.052 g of 9,9-dimethyl-4,5-bis(diphenylphosphine)xanthane under argon. 0.110 ml of bromobenzene and 2 ml dioxane are added and the reaction mixture is heated to reflux over 14 hours. The reaction mixture is subsequently cooled to room temperature, diluted with dichloromethane and filtered through Hyflo, and the filtrate is concentrated by evaporation. The title compound is obtained as a beige solid from the residue by means of flash chromatography (SiO2 60F). Rf=0.24 (4:1 EtOAc-heptane); Rt=2.50.

reactant | 3(S)-hydroxy-pyrrolidin-2-one | 0.123 g | O[C@@H]1C(NCC1)=O | C4H7NO2
reactant | caesium carbonate | 0.453 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | bromobenzene | 0.110 ml | BrC1=CC=CC=C1 | C6H5Br
reactant | dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3(S)-Hydroxy-1-phenylpyrrolidin-2-one | O[C@@H]1C(N(CC1)C1=CC=CC=C1)=O | C10H11NO2
